US05457099
Preparation of 4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-1-methyl-2(1H)-quinolinone (III-17)
A mixture of 4-(2-bromoethyl)-1-methyl-2(1H)-quinolinone (II-7) (500 mg, 1.88 mmol), 3-(4-piperidinyl)-1H-indole (376.5 mg, 1.88 mmol) and sodium hydrogencarbonate (236.9 mg, 2.82 mmol) in dry dimethylformamide 5 ml was allowed to react 90 ° C. for 3.5 hours. The reaction mixture was poured into ice-water and then the separated solid was filtered off by aspiration. The solid was washed with water and dried. The obtained solid was dissolved in developing solvent (chloroform: methanol=95:5) and purified by silica gel column chromatography. After removing first eluted impurity, a colorless solution was collected and the solvent was distilled off to give the desired product (III-17) (536 mg) as white crystals (yield 74.0%, mp 79°-81 ° C. (benzene-hexane)).

reactant | 4-(2-bromoethyl)-1-methyl-2(1H)-quinolinone | 1.88 mmol, 500 mg | BrCCC1=CC(N(C2=CC=CC=C12)C)=O | C12H12BrNO
reactant | 3-(4-piperidinyl)-1H-indole | 1.88 mmol, 376.5 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogencarbonate | 2.82 mmol, 236.9 mg | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-1-methyl-2(1H)-quinolinone | 536 mg, yield 74.0% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC1=CC(N(C2=CC=CC=C12)C)=O | C25H27N3O
